US08202881B2
To a solution of methanesulphonylacetone (0.5 g, 3.67 mmol) in AcOH (7.34 mL) and dichloromethane (11.02 mL) in a round bottom flask was added bromine (0.189 mL, 3.67 mmol) dropwise. The reaction mixture was stirred at rt 90 min. Solvent was removed in vacuo. The residue was taken up in ether and washed with saturated aqueous sodium bicarbonate (2×). The organics were concentrated in vacuo. 1-Bromo-1-(methylsulfonyl)propan-2-one (0.332 g, 42% yield) was isolated as an oil.

reactant | methanesulphonylacetone | 3.67 mmol, 0.5 g | CS(=O)(=O)CC(C)=O | C4H8O3S
reactant | bromine | 3.67 mmol, 0.189 mL | BrBr | Br2
solvent | AcOH | 7.34 mL | CC(=O)O | C2H4O2
solvent | dichloromethane | 11.02 mL | ClCCl | CH2Cl2
product | 1-Bromo-1-(methylsulfonyl)propan-2-one | 0.332 g, 42% yield | BrC(C(C)=O)S(=O)(=O)C | C4H7BrO3S
